US06716984B2
A solution of PBr3 (8.8 g, 32.5 mm) in 100 mL of pyridine was treated with 4-pyrrolidinopyridine (5.0 g, 33.7 mm) over a period of 5 min. The resulting mixture was then stirred at room temperature for 3 days to give the crude 3-dibromophosphino-4-pyrrolidinopyridine (31P NMR: δ152.2 ppm). This compound was used directly for the next step without further purification. Next, polymer-supported secondary amines from Example 1 (9.0 g, 1.1 mmol/g, 9.9 mmol) was slowly added into the mixture above while stirring at room temperature for a period of 10 min. The resulting suspension was refluxed overnight before the solution was filtered off. The resin was washed with THF (2×50 mL), hexane (3×50 mL), CH2Cl2 (4×50 mL), and hexane (2×50 mL). The resulting resin was dried in vacuum overnight to yield the polymer-supported 3-P(Br)-4-(NC4H8)C5H3N. 31P NMR (202 MHz, CDCl3): δ168.4 ppm.

reactant | PBr3 | 8.8 g | P(Br)(Br)Br | Br3P
reactant | 4-pyrrolidinopyridine | 5.0 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 3-dibromophosphino-4-pyrrolidinopyridine | BrP(C=1C=NC=CC1N1CCCC1)Br | C9H11Br2N2P
